US06310107B1
6-(4-Biphenylyl)methoxy-2-[2-(N-ethylamino)ethyl]tetralin Hydrochloride
6-(4-Biphenylyl)methoxy-2-[2-(N-ethylamino)ethyl]tetralin (1.009 g) was converted into its hydrochloride. The hydrochloride was washed with methanol, ethyl acetate, and diethyl ether to obtain the titled compound (810 mg).

reactant | 6-(4-Biphenylyl)methoxy-2-[2-(N-ethylamino)ethyl]tetralin | 1.009 g | C1(=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCNCC)C1=CC=CC=C1 | C27H31NO
reactant | hydrochloride | Cl | ClH
product | 6-(4-Biphenylyl)methoxy-2-[2-(N-ethylamino)ethyl]tetralin Hydrochloride | 810 mg | Cl.C1(=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCNCC)C1=CC=CC=C1 | InChI=1S/C27H31NO.ClH/c1-2-28-17-16-21-8-13-26-19-27(15-14-25(26)18-21)29-20-22-9-11-24(12-10-22)23-6-4-3-5-7-23;/h3-7,9-12,14-15,19,21,28H,2,8,13,16-18,20H2,1H3;1H
